US07435823B2
To a solution of 2-nitro-4-(trifluoromethyl)benzenamine (3.00 g, 14.9 mmol, 1.0 equiv) in CH2Cl2 (90 mL) at 25° C., was added 3-chloro-2,2-dimethylpropanoyl chloride (3.9 mL, 29.8 mmol, 2.0 equiv) followed by triethylamine (4.2 mL, 29.8 mmol, 2.0 equiv). The solution was heated to 40° C. After 48 h, the solution was washed with water (50 mL), and brine (50 mL). After concentration in vacuo, the residue was purified by silica gel chromatography (1:10 hexanes:EtOAc to 1:5 hexanes:EtOAc) to afford 3-chloro-2,2-dimethyl-N-(2-nitro-4-(trifluoromethyl)phenyl)propanamide. MS-No (MH+) observed.

reactant | 2-nitro-4-(trifluoromethyl)benzenamine | 14.9 mmol, 3.00 g, 1.0 equiv | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N | C7H5F3N2O2
reactant | 3-chloro-2,2-dimethylpropanoyl chloride | 29.8 mmol, 3.9 mL, 2.0 equiv | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | triethylamine | 29.8 mmol, 4.2 mL, 2.0 equiv | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-2,2-dimethyl-N-(2-nitro-4-(trifluoromethyl)phenyl)propanamide | ClCC(C(=O)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])(C)C | C12H12ClF3N2O3
